US05821243
(a) Preparation of 2-chloro-4-[N'-(2 -ethoxylcarbonyl-1-acetylethylidene)hydrazino]benzoic acid
To a suspension of 1 gm. (5.8 mmoles) of 3 -amino-4-chlorobenzoic acid in 20 ml. of ethanol was added 5 ml. of water and 1 ml. of 12 N hydrochloric acid. The resultant solution was cooled in an ice bath and to the cooled solution was added in small portions 442 mg. (6.4 mmoles) of sodium nitrite in 3 ml. of water. The mixture was allowed to warm to room temperature and after 30 minutes was added to a suspension of 1.19 gm. (6.4 mmole) of ethyl 3-acetyl-4-oxopentanoate, 1.8 gm. of sodium acetate, 20 ml. of ethanol and 5 ml. of water. The reaction mixture turned dark orange. After stirring for one hour, the mixture was acidified with 3 N hydrochloric acid and the resultant solids collected by filtration. After drying the material, 2.53 g. was obtained.

reactant | 3 -amino-4-chlorobenzoic acid | 5.8 mmoles | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
reactant | hydrochloric acid | 12 N | Cl | ClH
reactant | sodium nitrite | 6.4 mmoles | N(=O)[O-].[Na+]
reactant | ethyl 3-acetyl-4-oxopentanoate | 6.4 mmole | C(C)(=O)C(CC(=O)OCC)C(C)=O | C9H14O4
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-chloro-4-[N'-(2 -ethoxylcarbonyl-1-acetylethylidene)hydrazino]benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)NN=C(CC(=O)OCC)C(C)=O | C14H15ClN2O5
